US04322431
2.0 g of 5-butyryl-2-dichloromethyl-1,6-dimethylbenzimidazole are dissolved in 100 ml of ethanol. 50 ml of a 4 N sodium acetate solution are added and the solution is refluxed for 5 hours. The solution is evaporated to dryness under reduced pressure and recrystallised from ethyl acetate/cyclohexane. 5-butyryl-1,6-dimethylbenzimidazole-2-carboxaldehyde having a melting point of 116°-118° is obtained.

reactant | 5-butyryl-2-dichloromethyl-1,6-dimethylbenzimidazole | 2.0 g | C(CCC)(=O)C1=CC2=C(N(C(=N2)C(Cl)Cl)C)C=C1C | C14H16Cl2N2O
reactant | sodium acetate | 4 N | C(C)(=O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-butyryl-1,6-dimethylbenzimidazole-2-carboxaldehyde | C(CCC)(=O)C1=CC2=C(N(C(=N2)C=O)C)C=C1C | C14H16N2O2
